US07834000B2
3,4-Dihydro-3-(1-(2-(3-methyl-4-oxo-2-phenylthiazolidin-5-yl)acetyl)piperidin-4-yl)quinazolin-2(1H)-one (Compound # 273)
To a solution of 2-(3-methyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid (0.2 mmol, 50 mg), 3,4-dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one TFA salt (0.15 mmol, 49 mg) and DIPEA (0.375 mmol, 65.3 μl) in 4:1 CH3CN:DMF (0.5 ml) was added HATU (0.18 mmol, 68 mg) and the reaction mixture was stirred at room temperature for 16 h. Purification by preparative reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) gave the title compound. LC/MS (10% to 99%): M/Z (M+H)+ (obs)=465.5; tR=2.18. 1H NMR (400 MHz, CDCl3) δ 7.34-7.22 (m, 5H), 7.12 (t, J=7.5 Hz, 1H), 7.00 (d, J=7.5 Hz, 2H), 6.95-6.89 (m, 2H), 6.61 (d, J=7.8 Hz, 2H), 5.46-5.41 (m, 1H), 4.70 (m, 1H), 4.56 (m, 1H), 4.26 (m, 3H), 3.86 (m, 1H), 3.50 (m, 1H), 3.32 (m, 1H), 3.12-3.08 (m, 1H), 2.89-2.73 (m, 1H), 1.69 (m, 3H) ppm.

reactant | 2-(3-methyl-4-oxo-2-phenylthiazolidin-5-yl)acetic acid | 0.2 mmol, 50 mg | CN1C(SC(C1=O)CC(=O)O)C1=CC=CC=C1 | C12H13NO3S
reactant | 3,4-dihydro-3-(piperidin-4-yl)quinazolin-2(1H)-one TFA salt | 0.15 mmol, 49 mg | OC(=O)C(F)(F)F.N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O
reactant | DIPEA | 0.375 mmol, 65.3 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.18 mmol, 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | CH3CN | CC#N | C2H3N
product | 3,4-Dihydro-3-(1-(2-(3-methyl-4-oxo-2-phenylthiazolidin-5-yl)acetyl)piperidin-4-yl)quinazolin-2(1H)-one | CN1C(SC(C1=O)CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)C1=CC=CC=C1 | C25H28N4O3S
